US08383629B2
1′-(2-(2-(trifluoromethyl)phenyl)acetyl)spiro[indoline-3,4′-piperidin]-2-one
The title compound was prepared following a procedure analogous to that described in Example 31 using 2-(2-(trifluoromethyl)phenyl)acetic acid and spiro[indoline-3,4′-piperidin]-2-one. LC-MS Method 3 tR=1.089, min, m/z=389; NMR (CDCl3) 1.19 (m, 1H), 1.28 (m, 1H), 1.75 (m, 4H), 3.62 (m, 1H), 3.88 (m, 5H), 6.81 (d, 2H), 6.93 (m, 1H), 7.13 (m, 2H), 7.35 (m, 2H), 7.47 (m, 1H), 7.61 (d, 1H), 8.41 (s, 1H)

reactant | 2-(2-(trifluoromethyl)phenyl)acetic acid | FC(C1=C(C=CC=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | spiro[indoline-3,4′-piperidin]-2-one | N1CCC2(CC1)C(NC1=CC=CC=C12)=O | C12H14N2O
product | 1′-(2-(2-(trifluoromethyl)phenyl)acetyl)spiro[indoline-3,4′-piperidin]-2-one | FC(C1=C(C=CC=C1)CC(=O)N1CCC2(CC1)C(NC1=CC=CC=C12)=O)(F)F | C21H19F3N2O2
